US06166015
Sodium triacetoxyborohydride (3.2 g, 15 mmol, 1.5 equiv.) was added in one portion to a stirred solution of 3-(RS)-(N-tert-butoxycarbonylaminomethyl)pyrrolidine (2.0 g, 10 mmol) and 2,3-dichlorobenzaldehyde (1.9 g, 11 mmol, 1.1 equiv.) in dichloroethane (60 mL) at room temperature. The suspension was stirred overnight, then concentrated in vacuo. The residue was diluted with ether and quenched with 1 M hydrochloric acid. The aqueous phase was basified with 4 M sodium hydroxide to pH 12, then extracted with ethyl acetate. The organic extracts were combined and washed with brine, then dried over sodium sulfate and concentrated. Flash chromatography of the residue afforded 3-(RS)-(N-tert-butoxycarbonylaminomethyl)-1-(2,3-dichlorobenzyl)-pyrrolidine as a colorless oil (2.9 g). The oil was taken up into methylene chloride (30 mL) and treated with neat trifluoroacetic acid (5 mL). After 1 h, the volatile components were removed on a vacuum pump, then concentrated further under high vacuum to give 3-(RS)-aminomethyl-1-(2,3-dichlorobenzyl)pyrrolidine which was used directly without further purification.

reactant | Sodium triacetoxyborohydride | 15 mmol, 3.2 g, 1.5 equiv. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-(RS)-(N-tert-butoxycarbonylaminomethyl)pyrrolidine | 10 mmol, 2.0 g | C(C)(C)(C)OC(=O)NCC1CNCC1 | C10H20N2O2
reactant | 2,3-dichlorobenzaldehyde | 11 mmol, 1.9 g, 1.1 equiv. | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
product | 3-(RS)-(N-tert-butoxycarbonylaminomethyl)-1-(2,3-dichlorobenzyl)-pyrrolidine | 2.9 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CC1=C(C(=CC=C1)Cl)Cl | C17H24Cl2N2O2
